US07612114B2
6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine according to an analogous synthetic method to Example 36, ethyl [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (332 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (280 mg).

reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | FC=1C=C(CNC2=C(C=CC=C2)C2CC3=CC=C(C=C3CC2)OC)C=CC1OCCN1CCCCC1 | C31H37FN2O2
reactant | ethyl [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 332 mg | C(C)N(C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C33H41FN2O2
product | 6-{2-{Ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 280 mg | C(C)N(C1=C(C=CC=C1)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C32H39FN2O2
